US04195091
1-Methyl-4-(9-bromo-11-hydroxy-11H-pyrrolo[2,1-b][3]benzazepin-11-yl)piperidine (8.8 g) is dissolved in 500 ml of chloroform and the solution stirred in an ice bath while dry hydrogen chloride gas is bubbled in until the solution is acidic. The flask is then stoppered and the mixture stirred at room temperature for six hours following which the mixture is carefully basified with dilute aqueous sodium carbonate. The layers are separated, the aqueous extracted twice with chloroform and the combined chloroform washed with dilute sodium bicarbonate and with water. After drying over magnesium sulfate the chloroform is removed on a film evaporator to give a dark brown oil. Trituration with acetonitrile gives slightly impure 1-methyl-4-(9-bromo-11H-pyrrolo[2,1-b][3]benzazepin-11-ylidene)piperidine (5.4 g, 64%), m.p. 138°-142° C.

reactant | 1-Methyl-4-(9-bromo-11-hydroxy-11H-pyrrolo[2,1-b][3]benzazepin-11-yl)piperidine | 8.8 g | CN1CCC(CC1)C1(C=2N(C=CC3=C1C=C(C=C3)Br)C=CC2)O | C19H21BrN2O
reactant | hydrogen chloride | Cl | ClH
reactant | acetonitrile | C(C)#N | C2H3N
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-methyl-4-(9-bromo-11H-pyrrolo[2,1-b][3]benzazepin-11-ylidene)piperidine | 5.4 g, 64% | CN1CCC(CC1)=C1C=2N(C=CC3=C1C=C(C=C3)Br)C=CC2 | C19H19BrN2
